US07148218B2
i) Preparation of (4R)-3-[(2R,3S,4S,5S,6S,7Z)-3-hydroxy-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]-4-(phenylmethyl)-2-oxazolidinone.
A solution of (R)-4-benzyl-3-propionyl-2-oxazolidinone (2.18 g, 9.34 mmol) and methylene chloride (15 mL) is cooled to −20° C. (n-Bu)2BOTf (1.0 M in DCM, 8.7 mL, 8.7 mmol) is introduced dropwise. The reaction is allowed to warm to 0° C. NEt3 (1.15 9, 11.34 mmol) is added and the mixture is stirred at 0° C. for 1 h, then cooled to −78° C. A solution of (2R,3S,4S,5Z)-3-[(4-methoxyphenyl)methoxy]-2,4-dimethyl-5,7-octadienal (1.95 g, 6.77 mmol) in DCM (10 mL) is added dropwise at −70° C. for 10 min. After 1 h at −74° C., the mixture is warmed to 0° C. The reaction is quenched with pH 7 buffer (15 mL). The mixture is slowly treated with a solution of 30% H2O2 in MeOH (1:2, 15 mL) at 0° C., stirred for 40 min at room temperature, and concentrated. The residue is extracted with ethyl acetate (3×100 mL). The combined organic phase is washed with saturated aqueous NaHCO3, brine, and concentrated. Flash chromatography gives the desired compound (3.4 g, 96.4%) as a clear oil.

reactant | (R)-4-benzyl-3-propionyl-2-oxazolidinone | 9.34 mmol, 2.18 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | (n-Bu)2BOTf | 8.7 mmol, 1.0 M, 8.7 mL | B(CCCC)(CCCC)OS(=O)(=O)C(F)(F)F | C9H18BF3O3S
reactant | NEt3 | 11.34 mmol | CCN(CC)CC | C6H15N
reactant | (2R,3S,4S,5Z)-3-[(4-methoxyphenyl)methoxy]-2,4-dimethyl-5,7-octadienal | 6.77 mmol, 1.95 g | COC1=CC=C(C=C1)CO[C@H]([C@H](C=O)C)[C@H](\C=C/C=C)C | C18H24O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (4R)-3-[(2R,3S,4S,5S,6S,7Z)-3-hydroxy-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]-4-(phenylmethyl)-2-oxazolidinone | 3.4 g, 96.4% | O[C@H]([C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C)[C@@H]([C@H]([C@H](\C=C/C=C)C)OCC1=CC=C(C=C1)OC)C | C31H39NO6
